US07115597B2
N′-(6-Chloromethyl-pyrimidin-4-yl)-N,N-dimethyl-formamidine (24-6)
To a suspension of (6-aminopyrimidin-4-yl)methanol (52 mg, 0.42 mmole) in CH2Cl2 (2 mL) was added DMF (0.03 mL, 0.42 mmole) then POCl3 (0.04 mL, 0.42 mmole) at room temperature. After 2 hours, Et3N (0.3 mL) was added and stirring continued. After 18 hours, the mixture was concentrated. The residue was taken up in saturated NaHCO3 and extracted with CH2Cl2 (4×). The combined organic layers were dried (MgSO4), filtered, and concentrated to give the title compound as its DMF amidine. 1H-NMR (300 MHz, d6-DMSO) δ 8.78 (s, 1H), 8.65 (s, 1H), 6.90 (s, 1H), 4.60 (s, 2H), 3.18 (s, 3H), 3.05 (s, 3H).

reactant | (6-aminopyrimidin-4-yl)methanol | 0.42 mmole, 52 mg | NC1=CC(=NC=N1)CO | C5H7N3O
reactant | DMF | 0.42 mmole, 0.03 mL | CN(C)C=O | C3H7NO
reactant | POCl3 | 0.42 mmole, 0.04 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Et3N | 0.3 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N′-(6-Chloromethyl-pyrimidin-4-yl)-N,N-dimethyl-formamidine | ClCC1=CC(=NC=N1)N=CN(C)C | C8H11ClN4
